US09227951B2
A mixture of (S)-tert-butyl 1-amino-1-thioxopropan-2-ylcarbamate (6.9 g, 0.03 mol), 2-chloromalonaldehyde (5.2 g, 0.049 mol) and magnesium carbonate (2.76 g, 0.03 mol) in 1,4-dioxane (400 mL) was heated at 60° C. for 3 hours and further at room temperature overnight. The reaction mixture was concentrated and the residue purified by column chromatography (50-80% EtOAc/hexane) to afford tert-butyl 1-(5-formylthiazol-2-yl)ethylcarbamate (5.5 g, 64%). LC-MS: (FA) ES+ 257.

reactant | (S)-tert-butyl 1-amino-1-thioxopropan-2-ylcarbamate | 0.03 mol, 6.9 g | NC([C@H](C)NC(OC(C)(C)C)=O)=S | C8H16N2O2S
reactant | 2-chloromalonaldehyde | 0.049 mol, 5.2 g | ClC(C=O)C=O | C3H3ClO2
reactant | magnesium carbonate | 0.03 mol, 2.76 g | C([O-])([O-])=O.[Mg+2]
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 1-(5-formylthiazol-2-yl)ethylcarbamate | 5.5 g, 64% | C(=O)C1=CN=C(S1)C(C)NC(OC(C)(C)C)=O | C11H16N2O3S
